US09023858B2
2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
To a solution of 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3,5,6-tetrahydropyrido[2,3-d]pyrimidine-4,7(1H,8H)-dione (0.1 g) in acetonitrile (2 mL) were added 1M aqueous sodium hydrogen carbonate solution (0.269 mL) and iodoethane (0.109 mL), and the mixture was stirred at 70° C. for 2 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.08 g).

reactant | 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3,5,6-tetrahydropyrido[2,3-d]pyrimidine-4,7(1H,8H)-dione | 0.1 g | S=C1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C15H12F3N3O3S
reactant | sodium hydrogen carbonate | 1M, 0.269 mL | C(O)([O-])=O.[Na+]
reactant | iodoethane | 0.109 mL | ICC | C2H5I
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 0.08 g | C(C)SC=1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H16F3N3O3S
